US04284631
2-(2-Formamidothiazol-4-yl)-2-(2-methylthiazol-4-yl-methoxyimino)acetic acid (syn isomer, 0.50 g.), N,N-dimethylformamide (0.123 g.), phosphoryl chloride (0.259 g.) and ethyl acetate (6 ml.) were treated in a similar manner to that of Example 1-(1) to give an activated acid solution. The solution and a solution of 7-amino-3-cephem-4-carboxylic acid (0.306 g.), trimethylsilylacetamide (1.03 g.), and bis-(trimethylsilyl)acetamide (0.90 ml.) in ethyl acetate (3 ml.) were treated in a similar manner to that of Example 1-(1). Water (10 ml.) was added to the resultant mixture, and the ethyl acetate layer was separated, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then evaporated in vacuo to give 7-[2-(2-formamidothiazol-4-yl)-2-(2-methylthiazol-4-yl-methoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.48 g.)

reactant | 2-(2-Formamidothiazol-4-yl)-2-(2-methylthiazol-4-yl-methoxyimino)acetic acid | 0.50 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC=1N=C(SC1)C | C11H10N4O4S2
reactant | phosphoryl chloride | 0.259 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-cephem-4-carboxylic acid | 0.306 g | NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
reactant | trimethylsilylacetamide | 1.03 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | bis-(trimethylsilyl)acetamide | 0.90 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 10 ml | O | H2O
solvent | N,N-dimethylformamide | 0.123 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-(2-methylthiazol-4-yl-methoxyimino)acetamido]-3-cephem-4-carboxylic acid | 0.48 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC=1N=C(SC1)C | C18H16N6O6S3
